US04546104
A suspension of 5-amino-4-cyanopyrazole (10 g) and finely ground anhydrous potassium carbonate (38 g) in dry DMF (100 ml) was treated with 5-iodo-1-trimethylsilyl-1-pentyne (25 g) and the mixture was stirred under nitrogen for two days at room temperature. The reaction mixture was then poured into water and the product extracted into ethyl acetate. The extract was washed with water and then with brine, dried over Na2SO4, and evaporated to give a semisolid brown residue. This solid was taken up in chloroform and filtered through a short plug of silica gel. Evaporation of the chloroform left a tan solid comprising a mixture of the isomeric compounds 5-amino-4-cyano-1-(5-trimethylsilyl-4-pentynyl)pyrazole and 3-amino-4-cyano-1-(5-trimethylsilyl-4-pentynyl)pyrazole. Fractional recrystallization from ethyl acetate/hexane gave 4.66 grams of the desired 5-amino-4-cyano-1-(5-trimethylsilyl-4-pentynyl)pyrazole: mp 125°-127°.

reactant | 5-amino-4-cyanopyrazole | 10 g | NC1=C(C=NN1)C#N | C4H4N4
reactant | potassium carbonate | 38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-iodo-1-trimethylsilyl-1-pentyne | 25 g | ICCCC#C[Si](C)(C)C | C8H15ISi
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-amino-4-cyano-1-(5-trimethylsilyl-4-pentynyl)pyrazole | 4.66 grams | NC1=C(C=NN1CCCC#C[Si](C)(C)C)C#N | C12H18N4Si
